Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]1=[C:3]([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],72.6016322559064
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[O:4][C:6]([H:13])([H:14])[C:5]1)([H:7])([H:8])[H:9],87.2151340870474
[C:1]([C@@:2]([C:3](=[C:4]=[N:5][H:13])[H:12])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],59.855606536585796
[C:1]([C:2]([O:5][H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3](#[N:4])[C:6]([H:13])([H:14])[H:15]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],104.78322974666442
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:11])[C:3]([C:6]([H:13])([H:14])[H:15])=[N:4]1)([H:7])([H:8])[H:9].[O:5]([H:10])[H:12],65.7201364164708
[C:1](=[N:2]/[C:3](=[N:4]/[H:10])[C:5](=[O:6])[H:12])([H:7])[H:8].[H:9][H:11]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],18.313722802373906
[C:1]([O:2]/[C:3]([C:4]([H:11])([H:12])[H:13])=[C:5](/[O:6][H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],54.86919469898251
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]=[C:6]([O:5][H:10])[H:9])[H:8].[N:3]#[N:4],49.8416482198292
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](=[N:4][C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:13])[H:14].[H:10][H:15],79.42181966586341
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2](/[N:3]=[C:4](\[O:5][H:11])[C:6]([H:13])([H:14])[H:15])[H:10])([H:7])[H:8].[H:9][H:12],92.72809211508002
[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9]>>[N:1]([C+:2]([N:3]1[O:4][C:5]1=[O:6])[N-:7][H:10])([H:8])[H:9],61.454908428465096
[H:8][H:10].[O:1]=[C:2]([C:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])[H:9]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],73.7759578976729
[C:1](=[C:2]([H:9])[H:10])([H:7])[H:8].[C:3](=[O:4])([H:11])[H:12].[C:5]([H:6])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],59.772078397133484
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:14])([H:7])([H:8])[H:9].[O:3]=[C:4]1[O:5][C:6]1([H:12])[H:13],73.9756781145573
[C-:2](=[N+:3]=[C:4]([O:5][C:6]([H:13])([H:14])[H:15])[H:12])[H:11].[C:1]([H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],21.366581110799316
[C:1]([C:2]([O:3][C@@:4]1([H:13])[C:5]([H:14])([H:16])[C@:6]1([O:7][H:15])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],49.50742812514349
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1]1([H:8])[C@@:2]2([O:3][C:4]([H:9])([H:10])/[C:5]2=[N:7]/[H:13])[C:6]1([H:11])[H:12],84.085711430746
[C:1]([N:2]([C:3]([N:4]([H:11])[H:12])=[C+:5][N:7]([H:13])[H:14])[O-:6])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],3.157936648820993
[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:3]([O:4][H:12])([C@:5]([C:2][H:10])([O:6][H:14])[H:13])[H:11])([H:7])([H:8])[H:9],91.4513015008937
[C:1]([H:8])([H:9])([H:10])[H:17].[C:2]1([O:3][H:11])=[C:7]([H:16])[C:6]([H:15])=[C:5]([H:14])[C:4]1([H:12])[H:13]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],87.3165078677997
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6]>>[O:1]=[C:4]([C:3]#[C:2][C:5]#[N:6])[H:7],72.21128981323359
[C:1]1([H:7])=[O+:2][C@@:3]12[C:4]([H:9])([H:10])[O:5][C-:6]2[H:11].[H:8][H:12]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],37.70001021445459
[N:1](=[C:2]=[C:5]1[C:6]([H:11])([H:12])[N:7]1[H:13])[H:8].[O:3]=[C:4]([H:9])[H:10]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],21.69163496649739
[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:3]([H:11])([H:12])[C:4]1=[C:5]([H:10])[H:13])([H:6])([H:7])[H:8],75.3877738861565
